US07312330B2
[7-(3-Fluoro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl]-(4-trifluoromethyl-phenyl)-amine
The title compound was prepared according to the procedure given for Example 9 using N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (0.15 g, 0.51 mmol), 2-chloro-3-fluoropyridine (0.134 g, 0.10 mmol), N,N-diisopropylethylamine (0.133 mL, 0.76 mmol) and heating the reaction mixture 9 h at 170° C. to obtain 0.062 g of a white solid.

reactant | N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.51 mmol, 0.15 g | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2)(F)F | C14H13F3N4
reactant | 2-chloro-3-fluoropyridine | 0.10 mmol, 0.134 g | ClC1=NC=CC=C1F | C5H3ClFN
reactant | N,N-diisopropylethylamine | 0.76 mmol, 0.133 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | [7-(3-Fluoro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl]-(4-trifluoromethyl-phenyl)-amine | FC=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F | C19H15F4N5
